US07074933B2
6-Nitro-4-trifluoromethyl-1H-quinolin-2-one (2.50 g, 9.7 mmol) was methylated with KOH (5.46 g, 97.3 mmol) & MeI (6.1 mL, 97.3 mmol), as to give 1-methyl-6-nitro-4-trifluoromethyl-1H-quinolin-2-one (1.52 g, 57%): δH (CDCl3)=3.80 (s, 3H), 7.20 (s, 1H), 7.55 (d, 1H), 8.50 (dd, 1H), 8.75 (d, 1H). An EtOAc (50 mL) solution of this compound (1.26 g, 4.6 mmol) was treated with a slurry of Pd (10% on C, 95 mg, 0.09 mmol) in i-PrOH (2 mL). The mixture was stirred under a H2 atmosphere for 80 min, then more Pd (10% on C, 24 mg, 0.02 mmol) was added. After 20 min under H2, the mixture was filtered through Celite & the solvent removed to yield the title compound (1.06 g, 95%): δH (CDCl3)=3.70 (s, 3H), 3.75–3.85 (br s, 2H), 7.00–7.10 (m, 3H), 7.20 (d, 1H).

reactant | 6-Nitro-4-trifluoromethyl-1H-quinolin-2-one | 9.7 mmol, 2.50 g | [N+](=O)([O-])C=1C=C2C(=CC(NC2=CC1)=O)C(F)(F)F | C10H5F3N2O3
reactant | KOH | 97.3 mmol, 5.46 g | [OH-].[K+]
reactant | MeI | 97.3 mmol, 6.1 mL | CI | CH3I
product | 1-methyl-6-nitro-4-trifluoromethyl-1H-quinolin-2-one | 1.52 g, 57% | CN1C(C=C(C2=CC(=CC=C12)[N+](=O)[O-])C(F)(F)F)=O | C11H7F3N2O3
